US05466809
(1S,2R,8R,8aR)-1,2,8-triacetoxy-1,2,3,5,8,8a-hexahydro-5-oxyindolizine, 13, 22 g (0.070 mole), was hydrogenated at atmospheric pressure of hydrogen in 400 mL ethanol containing 3 g 10% Pd on carbon. The reaction was allowed to proceed overnight. The catalyst was filtered, and the filtrate was evaporated to dryness. The crystalline residue was taken up in ether and hexane and filtered to afford (1S,2R,8R,8aR)-1,2,8-triacetoxy-octahydro-5-oxyindolizine, 14, 21.4 g (0.068 mole; 97%) as a white crystalline solid of m.p. 146°-147° C. (lit. 143-145; A. C. Richardson et. al., Carb. Res., 136:225(1985)).

reactant | (1S,2R,8R,8aR)-1,2,8-triacetoxy-1,2,3,5,8,8a-hexahydro-5-oxyindolizine | CC(=O)OC1CN2C(C1OC(=O)C)C(C=CC2=O)OC(=O)C | C14H17NO7
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 400 mL, 3 g | C(C)O | C2H6O
product | (1S,2R,8R,8aR)-1,2,8-triacetoxy-octahydro-5-oxyindolizine | CC(=O)O[C@@H]1CCC(N2[C@H]1[C@@H]([C@@H](C2)OC(=O)C)OC(=O)C)O | C14H21NO7
